US05700819
The procedure of Example 16-i) was repeated using 1,3-phenylene diacetic acid monoethyl ester (847 mg, 3.3 mmol) and 2-amino-3,4-dichlorothiophenol hydrochloride (831 mg, 4.3 mmol) to obtain ethyl 3-[(4,5-dichlorobenzothiazol-2-yl)methyl]phenylacetate (706 mg, 56%) as a pale yellow oil.

reactant | 1,3-phenylene diacetic acid monoethyl ester | 3.3 mmol, 847 mg | C(C)OC(CC1=CC(=CC=C1)CC(=O)O)=O | C12H14O4
reactant | 2-amino-3,4-dichlorothiophenol hydrochloride | 4.3 mmol, 831 mg | Cl.NC1=C(C=CC(=C1Cl)Cl)S
product | ethyl 3-[(4,5-dichlorobenzothiazol-2-yl)methyl]phenylacetate | 706 mg, 56% | ClC1=C(C=CC2=C1N=C(S2)CC=2C=C(C=CC2)CC(=O)OCC)Cl | C18H15Cl2NO2S
